US04020177
Step A: Preparation of Ethyl 8-Acetyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoate
Sodium (1.15 g., 0.05 mole) is dissolved in ethanol (60 ml.). 3-Trifluoromethylphenol (14.6 g., 0.09 mole) is added and then ethyl 8-acetyl-12,13-epoxytridecanoate (13.0 g., 0.0435 mole). The resulting solution is heated under reflux for 1.5 hour. It is then cooled and poured into 300 ml. of water. The oily product is taken up in ether, washed with 100 ml. of 5% sodium hydroxide solution, water and brine and dried over sodium sulfate. The ether is evaporated in vacuo leaving 17.4 g. of the title compound as a yellow oil. It is used in the next step without purification.

reactant | Sodium | 0.05 mole, 1.15 g | [Na] | Na
reactant | 3-Trifluoromethylphenol | 0.09 mole, 14.6 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | ethyl 8-acetyl-12,13-epoxytridecanoate | 0.0435 mole, 13.0 g | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC1CO1 | C17H30O4
reactant | water | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | Ethyl 8-Acetyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC(COC1=CC(=CC=C1)C(F)(F)F)O | C24H35F3O5
